US04055595
Ethyl 2-hydroxy-3,3,3-trifluoro-2-trifluoromethylpropionate (12.0 g.) is added dropwise at 0° C. to a stirred suspension of sodium hydride (2.0 g. of a 60% emulsion in oil from which the oil has been wshed with xylene) in xylene (200 ml.). The mixture is stirred at 0° C. for 1.5 hours, and di-(4-chlorophenyl)iodonium chloride (18.7 g.) is added. The stirred suspension is heated under reflux for 1.5 hours, cooled, and filtered. The filtrate is evaporated in vacuo and the residual oil (30.4 g.) is chromatographed on a column of silica (150 g.) in light petroleum (b.p. 40°-60° C.). Elution with the same solvent (750 ml.) elutes 4-chloroiodobenzene. Further elution with the solvent (1000 ml.) and with a mixture of light petroleum and ether (19:1) (1000 ml.) elutes the oily product (14.5 g.) which is fractionally distilled to give ethyl 2-(4-chlorophenoxy)-3,3,3-trifluoro-2-trifluoromethylpropionate (11.7 g.) b.p. 122°-123° C. at 20 mm. pressure.

reactant | Ethyl 2-hydroxy-3,3,3-trifluoro-2-trifluoromethylpropionate | 12.0 g | OC(C(=O)OCC)(C(F)(F)F)C(F)(F)F | C6H6F6O3
reactant | sodium hydride | [H-].[Na+]
reactant | di-(4-chlorophenyl)iodonium chloride | 18.7 g | [Cl-].ClC1=CC=C(C=C1)[I+]C1=CC=C(C=C1)Cl
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 2-(4-chlorophenoxy)-3,3,3-trifluoro-2-trifluoromethylpropionate | 11.7 g | ClC1=CC=C(OC(C(=O)OCC)(C(F)(F)F)C(F)(F)F)C=C1 | C12H9ClF6O3
